US06211241B1
(6-Benzenesulfonylamino-6-cyano-hexyl) -carbamic acid benzyl ester:
Using the general procedure described in step A of scheme 1, (6-amino-6-cyano-hexyl}-carbamic acid benzyl ester (2.8 g, 10 mmol) was sulfonylated with 2-nitrobenzenesulfonyl chloride (2.5 g, 11 mmol) at 0° C. to yield the titled compound (1.7 g, 36%); yellow oil.

reactant | (6-amino-6-cyano-hexyl}-carbamic acid benzyl ester | 10 mmol, 2.8 g | C(C1=CC=CC=C1)OC(NCCCCCC(C#N)N)=O | C15H21N3O2
reactant | 2-nitrobenzenesulfonyl chloride | 11 mmol, 2.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | (6-Benzenesulfonylamino-6-cyano-hexyl) -carbamic acid benzyl ester | 1.7 g, 36% | C(C1=CC=CC=C1)OC(NCCCCCC(C#N)NS(=O)(=O)C1=CC=CC=C1)=O | C21H25N3O4S
